US05366993
3-(4-cyclododecyl-1-oxobutyl)-4-hydroxy-2(5H)-thiophenone compound with 2-amino-2-(hydroxymethyl)-1,3-propanediol (1:1)
To 0.8 g (2.3 mmol) of 3-(4-cyclododecyl-1-oxobutyl)-4-hydroxy-2-(5H)thiophenone in 20 mL of ethanol at 70° C. is added 0.26 g (2.2 mmol) of trishydroxymethyl aminomethane dissolved in 5 mL of water. The reaction mixture is stirred at 70° C. for 0.5 hours and then the solvents are evaporated. The residue is recrystallized from tetrahydrofuran/ether (2:1) to give 0.66 g of an off white solid: m.p. 141°-144° C.; IR (KBr) 3420, 2920, 2830, 1580 cm-1 ; NMR (DMSO-d6) δ1.11.-1.4 (m, 10H), 2.55 (t, J=7 Hz, 2H), 3.26 (s, 1H), 3.31 (s, 4H), 3.47 (d, J=5, 3 Hz), 5.15 (t, J=5 Hz, 2H), 7.6 (bs, 2H); MS (DCI) [M+H]+ 353. Anal. Calc' d. for C4H43NO6S: C 60.86; H 9.15; N, 2.96 Found: C, 60.91; H 9.16; N, 2.88

reactant | 3-(4-cyclododecyl-1-oxobutyl)-4-hydroxy-2-(5H)thiophenone | 2.3 mmol, 0.8 g | C1(CCCCCCCCCCC1)CCCC(=O)C=1C(SCC1O)=O | C20H32O3S
reactant | trishydroxymethyl aminomethane | 2.2 mmol, 0.26 g | OCC(N)(CO)CO | C4H11NO3
reactant | KBr | [K+].[Br-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 3-(4-cyclododecyl-1-oxobutyl)-4-hydroxy-2(5H)-thiophenone compound with 2-amino-2-(hydroxymethyl)-1,3-propanediol | NC(CO)(CO)CO.C1(CCCCCCCCCCC1)CCCC(=O)C=1C(SCC1O)=O | InChI=1S/C20H32O3S.C4H11NO3/c21-17(19-18(22)15-24-20(19)23)14-10-13-16-11-8-6-4-2-1-3-5-7-9-12-16;5-4(1-6,2-7)3-8/h16,22H,1-15H2;6-8H,1-3,5H2
